US08426447B2
A 5 mL smith synthesizer vial was charged with (R)-2′-bromo-7′-methoxy-5H-spiro[oxazole-4,9′-xanthen]-2-amine (1.248 g, 3.46 mmol), sodium azide (0.684 g, 10.52 mmol), L-ascorbic acid sodium salt (0.057 g, 0.288 mmol), copper(I) iodide (0.131 g, 0.688 mmol), and (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine (0.116 mL, 0.736 mmol) in EtOH (6.0 mL), water (2.6 mL) and the reaction was heated to 100° C. in the microwave for 35 minutes. The reaction vial was cooled to RT and concentrated on the rotary evaporator and the resulting residue was taken up in ethyl acetate (125 mL), water (50 mL) the organic layer was separated. The organic layer was dried over sodium sulfate and concentrated to yield the crude product which was purified by silica gel flash column chromatography (using a 40G ISCO silica gel cartridge), and eluted using hexanes/ethyl acetate gradient. The fractions were combined and concentrated to yield (S)-2′-azido-7′-methoxy-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a yellowish solid. MS (ESI pos. ion) m/z: 324 (M+1).

reactant | (R)-2′-bromo-7′-methoxy-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 3.46 mmol, 1.248 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OC)N=C(OC3)N | C16H13BrN2O3
reactant | sodium azide | 10.52 mmol, 0.684 g | [N-]=[N+]=[N-].[Na+]
reactant | L-ascorbic acid sodium salt | 0.288 mmol, 0.057 g | [Na].O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO
reactant | (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine | 0.736 mmol, 0.116 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | EtOH | 6.0 mL | CCO | C2H6O
solvent | water | 2.6 mL | O | H2O
catalyst | copper(I) iodide | 0.688 mmol, 0.131 g | [Cu]I
product | (S)-2′-azido-7′-methoxy-5H-spiro[oxazole-4,9′-xanthen]-2-amine | N(=[N+]=[N-])C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OC)N=C(OC3)N | C16H13N5O3
